US07834063B2
4-[{2-[(4-Acetylphenyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C using 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-hydroxyacetophenone: MS (APCI) m/z 431 (M+1).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 4-hydroxyacetophenone | CC(=O)C=1C=CC(=CC1)O | C8H8O2
product | 4-[{2-[(4-Acetylphenyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | C(C)(=O)C1=CC=C(C=C1)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C20H16F6N2O2
